US05175166
5-(1,3-oxathiolan-2-yl)pyrimidine
Pyrimidine-5-carboxaldehyde (1 g, 9.25 mmol), p-toluene sulfonic acid (0.176 g, 0.95 mmol) and 2-mercaptoethanol (0.65 ml, 9.25 mmol) were all put in a 50 ml round bottomed flask, fitted with a condenser, drying tube and a Dean-stark trap. Toluene (30 ml) was added and the mixture refluxed with stirring overnight, cooled to room temperature and excess toluene evaporated in vacuo. Saturated sodium carbonate 10 ml was added and extracted with chloroform (7×10 ml). The extract was dried over MgSO4, filtered and the solvent evaporated in vacuo to 1.73 g (115%) crude yellow oil. TLC (silica; chloroform/methanol 9.8:0.2) indicated the product and some impurities.

reactant | Pyrimidine-5-carboxaldehyde | 9.25 mmol, 1 g | N1=CN=CC(=C1)C=O | C5H4N2O
reactant | p-toluene sulfonic acid | 0.95 mmol, 0.176 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | 2-mercaptoethanol | 9.25 mmol, 0.65 ml | SCCO | C2H6OS
product | 5-(1,3-oxathiolan-2-yl)pyrimidine | O1C(SCC1)C=1C=NC=NC1 | C7H8N2OS
